US03994902
1-{4-[2-(Diethylamino)ethoxy]phenyl}-2-(4-chlorophenyl)-1,2,3,4-tetrahydroquinoline.
A procedure was followed similar to that described in Example 1 but using 18 g. 1-(4-hydroxyphenyl)-2-(4-chlorophenyl)-1,2,3,4-tetrahydroquinoline, 3.8 g. sodium methoxide, 160 ml. chlorobenzene, 15 ml. dry methanol and 8.8 g. N-(2-chloroethyl) diethylamine. The crude material was chromatographed on 700 g. activated magnesium silicate (60-100 mesh) using benzene, benzene containing increasing amounts of ether, and ether as eluants and there was thus eluted with 7 - 50% ether in benzene and with ether 15 g. 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-(4-chlorophenyl)-1,2,3,4-tetrahydroquinoline which was converted to the cyclohexanesulfamate salt; m.p. 161°-163°C. (isopropyl alcohol).

reactant | 1-(4-hydroxyphenyl)-2-(4-chlorophenyl)-1,2,3,4-tetrahydroquinoline | OC1=CC=C(C=C1)N1C(CCC2=CC=CC=C12)C1=CC=C(C=C1)Cl | C21H18ClNO
reactant | sodium methoxide | C[O-].[Na+]
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
reactant | N-(2-chloroethyl) diethylamine | ClCCN(CC)CC | C6H14ClN
solvent | methanol | CO | CH4O
product | 1-{4-[2-(Diethylamino)ethoxy]phenyl}-2-(4-chlorophenyl)-1,2,3,4-tetrahydroquinoline | C(C)N(CCOC1=CC=C(C=C1)N1C(CCC2=CC=CC=C12)C1=CC=C(C=C1)Cl)CC | C27H31ClN2O
